US05604237
(i) N-[4-(3-Bromopropoxy)phenyl]acetamide
A mixture of N-(4-hydroxyphenyl)acetamide (10 g) and potassium carbonate (11 g) in DMF (200 ml) was stirred for 20 min at room temperature. 1,3-Dibromopropane (35 ml) was then added and stirring was continued for 4 h. The mixture was filtered and the filtrate was concentrated in vacuo. The residue was treated with water and extracted with dichloromethane. The organic phase was washed first with dilute sodium hydroxide, then with water, dried and concentrated to give a solid which was triturated with hexane to give the title compound (14 g), MP: 120°.

reactant | N-(4-hydroxyphenyl)acetamide | 10 g | OC1=CC=C(C=C1)NC(C)=O | C8H9NO2
reactant | potassium carbonate | 11 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,3-Dibromopropane | 35 ml | BrCCCBr | C3H6Br2
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | N-[4-(3-Bromopropoxy)phenyl]acetamide | 14 g | BrCCCOC1=CC=C(C=C1)NC(C)=O | C11H14BrNO2
